*-- pdngen: spice deck generated for chip 'chiplet1' PDN
*-- die chiplet1:  W/H: 0.002/0.004


.subckt chiplet1
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
*-- p/g port #: 16/16
+nd_1_0_7000_1500

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_500 nd_1_0_3000_500 0.016324
rd_1_2_0_0_1 nd_1_0_3000_500 nd_1_0_5000_500 0.016324
rd_1_2_0_0_2 nd_1_0_5000_500 nd_1_0_7000_500 0.016324
rd_1_2_0_0_3 nd_1_0_7000_500 nd_1_0_9000_500 0.016324
rd_1_2_0_1_0 nd_1_0_1000_1500 nd_1_0_3000_1500 0.016324
rd_1_2_0_1_1 nd_1_0_3000_1500 nd_1_0_5000_1500 0.016324
rd_1_2_0_1_2 nd_1_0_5000_1500 nd_1_0_7000_1500 0.016324
rd_1_2_0_1_3 nd_1_0_7000_1500 nd_1_0_9000_1500 0.016324
rd_1_2_0_2_0 nd_1_0_1000_2500 nd_1_0_3000_2500 0.016324
rd_1_2_0_2_1 nd_1_0_3000_2500 nd_1_0_5000_2500 0.016324
rd_1_2_0_2_2 nd_1_0_5000_2500 nd_1_0_7000_2500 0.016324
rd_1_2_0_2_3 nd_1_0_7000_2500 nd_1_0_9000_2500 0.016324
rd_1_2_0_3_0 nd_1_0_1000_3500 nd_1_0_3000_3500 0.016324
rd_1_2_0_3_1 nd_1_0_3000_3500 nd_1_0_5000_3500 0.016324
rd_1_2_0_3_2 nd_1_0_5000_3500 nd_1_0_7000_3500 0.016324
rd_1_2_0_3_3 nd_1_0_7000_3500 nd_1_0_9000_3500 0.016324
rd_1_2_0_4_0 nd_1_0_1000_4500 nd_1_0_3000_4500 0.016324
rd_1_2_0_4_1 nd_1_0_3000_4500 nd_1_0_5000_4500 0.016324
rd_1_2_0_4_2 nd_1_0_5000_4500 nd_1_0_7000_4500 0.016324
rd_1_2_0_4_3 nd_1_0_7000_4500 nd_1_0_9000_4500 0.016324
rd_1_2_0_5_0 nd_1_0_1000_5500 nd_1_0_3000_5500 0.016324
rd_1_2_0_5_1 nd_1_0_3000_5500 nd_1_0_5000_5500 0.016324
rd_1_2_0_5_2 nd_1_0_5000_5500 nd_1_0_7000_5500 0.016324
rd_1_2_0_5_3 nd_1_0_7000_5500 nd_1_0_9000_5500 0.016324
rd_1_2_0_6_0 nd_1_0_1000_6500 nd_1_0_3000_6500 0.016324
rd_1_2_0_6_1 nd_1_0_3000_6500 nd_1_0_5000_6500 0.016324
rd_1_2_0_6_2 nd_1_0_5000_6500 nd_1_0_7000_6500 0.016324
rd_1_2_0_6_3 nd_1_0_7000_6500 nd_1_0_9000_6500 0.016324
rd_1_2_0_7_0 nd_1_0_1000_7500 nd_1_0_3000_7500 0.016324
rd_1_2_0_7_1 nd_1_0_3000_7500 nd_1_0_5000_7500 0.016324
rd_1_2_0_7_2 nd_1_0_5000_7500 nd_1_0_7000_7500 0.016324
rd_1_2_0_7_3 nd_1_0_7000_7500 nd_1_0_9000_7500 0.016324
rd_1_2_0_8_0 nd_1_0_1000_8500 nd_1_0_3000_8500 0.016324
rd_1_2_0_8_1 nd_1_0_3000_8500 nd_1_0_5000_8500 0.016324
rd_1_2_0_8_2 nd_1_0_5000_8500 nd_1_0_7000_8500 0.016324
rd_1_2_0_8_3 nd_1_0_7000_8500 nd_1_0_9000_8500 0.016324
rd_1_2_0_9_0 nd_1_0_1000_9500 nd_1_0_3000_9500 0.016324
rd_1_2_0_9_1 nd_1_0_3000_9500 nd_1_0_5000_9500 0.016324
rd_1_2_0_9_2 nd_1_0_5000_9500 nd_1_0_7000_9500 0.016324
rd_1_2_0_9_3 nd_1_0_7000_9500 nd_1_0_9000_9500 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_500 nd_2_0_1000_1500 0.016324
rd_2_1_0_0_1 nd_2_0_1000_1500 nd_2_0_1000_2500 0.016324
rd_2_1_0_0_2 nd_2_0_1000_2500 nd_2_0_1000_3500 0.016324
rd_2_1_0_0_3 nd_2_0_1000_3500 nd_2_0_1000_4500 0.016324
rd_2_1_0_0_4 nd_2_0_1000_4500 nd_2_0_1000_5500 0.016324
rd_2_1_0_0_5 nd_2_0_1000_5500 nd_2_0_1000_6500 0.016324
rd_2_1_0_0_6 nd_2_0_1000_6500 nd_2_0_1000_7500 0.016324
rd_2_1_0_0_7 nd_2_0_1000_7500 nd_2_0_1000_8500 0.016324
rd_2_1_0_0_8 nd_2_0_1000_8500 nd_2_0_1000_9500 0.016324
rd_2_1_0_1_0 nd_2_0_3000_500 nd_2_0_3000_1500 0.016324
rd_2_1_0_1_1 nd_2_0_3000_1500 nd_2_0_3000_2500 0.016324
rd_2_1_0_1_2 nd_2_0_3000_2500 nd_2_0_3000_3500 0.016324
rd_2_1_0_1_3 nd_2_0_3000_3500 nd_2_0_3000_4500 0.016324
rd_2_1_0_1_4 nd_2_0_3000_4500 nd_2_0_3000_5500 0.016324
rd_2_1_0_1_5 nd_2_0_3000_5500 nd_2_0_3000_6500 0.016324
rd_2_1_0_1_6 nd_2_0_3000_6500 nd_2_0_3000_7500 0.016324
rd_2_1_0_1_7 nd_2_0_3000_7500 nd_2_0_3000_8500 0.016324
rd_2_1_0_1_8 nd_2_0_3000_8500 nd_2_0_3000_9500 0.016324
rd_2_1_0_2_0 nd_2_0_5000_500 nd_2_0_5000_1500 0.016324
rd_2_1_0_2_1 nd_2_0_5000_1500 nd_2_0_5000_2500 0.016324
rd_2_1_0_2_2 nd_2_0_5000_2500 nd_2_0_5000_3500 0.016324
rd_2_1_0_2_3 nd_2_0_5000_3500 nd_2_0_5000_4500 0.016324
rd_2_1_0_2_4 nd_2_0_5000_4500 nd_2_0_5000_5500 0.016324
rd_2_1_0_2_5 nd_2_0_5000_5500 nd_2_0_5000_6500 0.016324
rd_2_1_0_2_6 nd_2_0_5000_6500 nd_2_0_5000_7500 0.016324
rd_2_1_0_2_7 nd_2_0_5000_7500 nd_2_0_5000_8500 0.016324
rd_2_1_0_2_8 nd_2_0_5000_8500 nd_2_0_5000_9500 0.016324
rd_2_1_0_3_0 nd_2_0_7000_500 nd_2_0_7000_1500 0.016324
rd_2_1_0_3_1 nd_2_0_7000_1500 nd_2_0_7000_2500 0.016324
rd_2_1_0_3_2 nd_2_0_7000_2500 nd_2_0_7000_3500 0.016324
rd_2_1_0_3_3 nd_2_0_7000_3500 nd_2_0_7000_4500 0.016324
rd_2_1_0_3_4 nd_2_0_7000_4500 nd_2_0_7000_5500 0.016324
rd_2_1_0_3_5 nd_2_0_7000_5500 nd_2_0_7000_6500 0.016324
rd_2_1_0_3_6 nd_2_0_7000_6500 nd_2_0_7000_7500 0.016324
rd_2_1_0_3_7 nd_2_0_7000_7500 nd_2_0_7000_8500 0.016324
rd_2_1_0_3_8 nd_2_0_7000_8500 nd_2_0_7000_9500 0.016324
rd_2_1_0_4_0 nd_2_0_9000_500 nd_2_0_9000_1500 0.016324
rd_2_1_0_4_1 nd_2_0_9000_1500 nd_2_0_9000_2500 0.016324
rd_2_1_0_4_2 nd_2_0_9000_2500 nd_2_0_9000_3500 0.016324
rd_2_1_0_4_3 nd_2_0_9000_3500 nd_2_0_9000_4500 0.016324
rd_2_1_0_4_4 nd_2_0_9000_4500 nd_2_0_9000_5500 0.016324
rd_2_1_0_4_5 nd_2_0_9000_5500 nd_2_0_9000_6500 0.016324
rd_2_1_0_4_6 nd_2_0_9000_6500 nd_2_0_9000_7500 0.016324
rd_2_1_0_4_7 nd_2_0_9000_7500 nd_2_0_9000_8500 0.016324
rd_2_1_0_4_8 nd_2_0_9000_8500 nd_2_0_9000_9500 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_500 nd_2_0_1000_500 0.005
rvd_1_0_0_1 nd_1_0_3000_500 nd_2_0_3000_500 0.005
rvd_1_0_0_2 nd_1_0_5000_500 nd_2_0_5000_500 0.005
rvd_1_0_0_3 nd_1_0_7000_500 nd_2_0_7000_500 0.005
rvd_1_0_0_4 nd_1_0_9000_500 nd_2_0_9000_500 0.005
rvd_1_0_1_0 nd_1_0_1000_1500 nd_2_0_1000_1500 0.005
rvd_1_0_1_1 nd_1_0_3000_1500 nd_2_0_3000_1500 0.005
rvd_1_0_1_2 nd_1_0_5000_1500 nd_2_0_5000_1500 0.005
rvd_1_0_1_3 nd_1_0_7000_1500 nd_2_0_7000_1500 0.005
rvd_1_0_1_4 nd_1_0_9000_1500 nd_2_0_9000_1500 0.005
rvd_1_0_2_0 nd_1_0_1000_2500 nd_2_0_1000_2500 0.005
rvd_1_0_2_1 nd_1_0_3000_2500 nd_2_0_3000_2500 0.005
rvd_1_0_2_2 nd_1_0_5000_2500 nd_2_0_5000_2500 0.005
rvd_1_0_2_3 nd_1_0_7000_2500 nd_2_0_7000_2500 0.005
rvd_1_0_2_4 nd_1_0_9000_2500 nd_2_0_9000_2500 0.005
rvd_1_0_3_0 nd_1_0_1000_3500 nd_2_0_1000_3500 0.005
rvd_1_0_3_1 nd_1_0_3000_3500 nd_2_0_3000_3500 0.005
rvd_1_0_3_2 nd_1_0_5000_3500 nd_2_0_5000_3500 0.005
rvd_1_0_3_3 nd_1_0_7000_3500 nd_2_0_7000_3500 0.005
rvd_1_0_3_4 nd_1_0_9000_3500 nd_2_0_9000_3500 0.005
rvd_1_0_4_0 nd_1_0_1000_4500 nd_2_0_1000_4500 0.005
rvd_1_0_4_1 nd_1_0_3000_4500 nd_2_0_3000_4500 0.005
rvd_1_0_4_2 nd_1_0_5000_4500 nd_2_0_5000_4500 0.005
rvd_1_0_4_3 nd_1_0_7000_4500 nd_2_0_7000_4500 0.005
rvd_1_0_4_4 nd_1_0_9000_4500 nd_2_0_9000_4500 0.005
rvd_1_0_5_0 nd_1_0_1000_5500 nd_2_0_1000_5500 0.005
rvd_1_0_5_1 nd_1_0_3000_5500 nd_2_0_3000_5500 0.005
rvd_1_0_5_2 nd_1_0_5000_5500 nd_2_0_5000_5500 0.005
rvd_1_0_5_3 nd_1_0_7000_5500 nd_2_0_7000_5500 0.005
rvd_1_0_5_4 nd_1_0_9000_5500 nd_2_0_9000_5500 0.005
rvd_1_0_6_0 nd_1_0_1000_6500 nd_2_0_1000_6500 0.005
rvd_1_0_6_1 nd_1_0_3000_6500 nd_2_0_3000_6500 0.005
rvd_1_0_6_2 nd_1_0_5000_6500 nd_2_0_5000_6500 0.005
rvd_1_0_6_3 nd_1_0_7000_6500 nd_2_0_7000_6500 0.005
rvd_1_0_6_4 nd_1_0_9000_6500 nd_2_0_9000_6500 0.005
rvd_1_0_7_0 nd_1_0_1000_7500 nd_2_0_1000_7500 0.005
rvd_1_0_7_1 nd_1_0_3000_7500 nd_2_0_3000_7500 0.005
rvd_1_0_7_2 nd_1_0_5000_7500 nd_2_0_5000_7500 0.005
rvd_1_0_7_3 nd_1_0_7000_7500 nd_2_0_7000_7500 0.005
rvd_1_0_7_4 nd_1_0_9000_7500 nd_2_0_9000_7500 0.005
rvd_1_0_8_0 nd_1_0_1000_8500 nd_2_0_1000_8500 0.005
rvd_1_0_8_1 nd_1_0_3000_8500 nd_2_0_3000_8500 0.005
rvd_1_0_8_2 nd_1_0_5000_8500 nd_2_0_5000_8500 0.005
rvd_1_0_8_3 nd_1_0_7000_8500 nd_2_0_7000_8500 0.005
rvd_1_0_8_4 nd_1_0_9000_8500 nd_2_0_9000_8500 0.005
rvd_1_0_9_0 nd_1_0_1000_9500 nd_2_0_1000_9500 0.005
rvd_1_0_9_1 nd_1_0_3000_9500 nd_2_0_3000_9500 0.005
rvd_1_0_9_2 nd_1_0_5000_9500 nd_2_0_5000_9500 0.005
rvd_1_0_9_3 nd_1_0_7000_9500 nd_2_0_7000_9500 0.005
rvd_1_0_9_4 nd_1_0_9000_9500 nd_2_0_9000_9500 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_500 0 72.1156
rdesr_0_0_0_0 nd_1_0_1000_500 nd_1_0_1000_500_ci 72.1156
cd_0_0_0_0 nd_1_0_1000_500_ci 0 2.77333e-11
rdload_0_0_0_1 nd_1_0_3000_500 0 103.802
rdesr_0_0_0_1 nd_1_0_3000_500 nd_1_0_3000_500_ci 103.802
cd_0_0_0_1 nd_1_0_3000_500_ci 0 1.92674e-11
rdload_0_0_0_2 nd_1_0_5000_500 0 77.7033
rdesr_0_0_0_2 nd_1_0_5000_500 nd_1_0_5000_500_ci 77.7033
cd_0_0_0_2 nd_1_0_5000_500_ci 0 2.57389e-11
rdload_0_0_0_3 nd_1_0_7000_500 0 71.3915
rdesr_0_0_0_3 nd_1_0_7000_500 nd_1_0_7000_500_ci 71.3915
cd_0_0_0_3 nd_1_0_7000_500_ci 0 2.80145e-11
rdload_0_0_0_4 nd_1_0_9000_500 0 453.004
rdesr_0_0_0_4 nd_1_0_9000_500 nd_1_0_9000_500_ci 453.004
cd_0_0_0_4 nd_1_0_9000_500_ci 0 4.41497e-12
rdload_0_0_0_5 nd_1_0_1000_1500 0 76.7819
rdesr_0_0_0_5 nd_1_0_1000_1500 nd_1_0_1000_1500_ci 76.7819
cd_0_0_0_5 nd_1_0_1000_1500_ci 0 2.60478e-11
rdload_0_0_0_6 nd_1_0_3000_1500 0 115.017
rdesr_0_0_0_6 nd_1_0_3000_1500 nd_1_0_3000_1500_ci 115.017
cd_0_0_0_6 nd_1_0_3000_1500_ci 0 1.73888e-11
rdload_0_0_0_7 nd_1_0_5000_1500 0 434.862
rdesr_0_0_0_7 nd_1_0_5000_1500 nd_1_0_5000_1500_ci 434.862
cd_0_0_0_7 nd_1_0_5000_1500_ci 0 4.59916e-12
rdload_0_0_0_8 nd_1_0_7000_1500 0 179.196
rdesr_0_0_0_8 nd_1_0_7000_1500 nd_1_0_7000_1500_ci 179.196
cd_0_0_0_8 nd_1_0_7000_1500_ci 0 1.11609e-11
rdload_0_0_0_9 nd_1_0_9000_1500 0 730.15
rdesr_0_0_0_9 nd_1_0_9000_1500 nd_1_0_9000_1500_ci 730.15
cd_0_0_0_9 nd_1_0_9000_1500_ci 0 2.73916e-12
rdload_0_0_0_10 nd_1_0_1000_2500 0 218.812
rdesr_0_0_0_10 nd_1_0_1000_2500 nd_1_0_1000_2500_ci 218.812
cd_0_0_0_10 nd_1_0_1000_2500_ci 0 9.14027e-12
rdload_0_0_0_11 nd_1_0_3000_2500 0 75.767
rdesr_0_0_0_11 nd_1_0_3000_2500 nd_1_0_3000_2500_ci 75.767
cd_0_0_0_11 nd_1_0_3000_2500_ci 0 2.63967e-11
rdload_0_0_0_12 nd_1_0_5000_2500 0 111.052
rdesr_0_0_0_12 nd_1_0_5000_2500 nd_1_0_5000_2500_ci 111.052
cd_0_0_0_12 nd_1_0_5000_2500_ci 0 1.80096e-11
rdload_0_0_0_13 nd_1_0_7000_2500 0 81.3305
rdesr_0_0_0_13 nd_1_0_7000_2500 nd_1_0_7000_2500_ci 81.3305
cd_0_0_0_13 nd_1_0_7000_2500_ci 0 2.4591e-11
rdload_0_0_0_14 nd_1_0_9000_2500 0 125.327
rdesr_0_0_0_14 nd_1_0_9000_2500 nd_1_0_9000_2500_ci 125.327
cd_0_0_0_14 nd_1_0_9000_2500_ci 0 1.59583e-11
rdload_0_0_0_15 nd_1_0_1000_3500 0 615.179
rdesr_0_0_0_15 nd_1_0_1000_3500 nd_1_0_1000_3500_ci 615.179
cd_0_0_0_15 nd_1_0_1000_3500_ci 0 3.25109e-12
rdload_0_0_0_16 nd_1_0_3000_3500 0 80.4033
rdesr_0_0_0_16 nd_1_0_3000_3500 nd_1_0_3000_3500_ci 80.4033
cd_0_0_0_16 nd_1_0_3000_3500_ci 0 2.48746e-11
rdload_0_0_0_17 nd_1_0_5000_3500 0 122.683
rdesr_0_0_0_17 nd_1_0_5000_3500 nd_1_0_5000_3500_ci 122.683
cd_0_0_0_17 nd_1_0_5000_3500_ci 0 1.63022e-11
rdload_0_0_0_18 nd_1_0_7000_3500 0 258.144
rdesr_0_0_0_18 nd_1_0_7000_3500 nd_1_0_7000_3500_ci 258.144
cd_0_0_0_18 nd_1_0_7000_3500_ci 0 7.7476e-12
rdload_0_0_0_19 nd_1_0_9000_3500 0 79.8659
rdesr_0_0_0_19 nd_1_0_9000_3500 nd_1_0_9000_3500_ci 79.8659
cd_0_0_0_19 nd_1_0_9000_3500_ci 0 2.5042e-11
rdload_0_0_0_20 nd_1_0_1000_4500 0 1453.87
rdesr_0_0_0_20 nd_1_0_1000_4500 nd_1_0_1000_4500_ci 1453.87
cd_0_0_0_20 nd_1_0_1000_4500_ci 0 1.37564e-12
rdload_0_0_0_21 nd_1_0_3000_4500 0 86.8834
rdesr_0_0_0_21 nd_1_0_3000_4500 nd_1_0_3000_4500_ci 86.8834
cd_0_0_0_21 nd_1_0_3000_4500_ci 0 2.30194e-11
rdload_0_0_0_22 nd_1_0_5000_4500 0 67.6879
rdesr_0_0_0_22 nd_1_0_5000_4500 nd_1_0_5000_4500_ci 67.6879
cd_0_0_0_22 nd_1_0_5000_4500_ci 0 2.95474e-11
rdload_0_0_0_23 nd_1_0_7000_4500 0 324.107
rdesr_0_0_0_23 nd_1_0_7000_4500 nd_1_0_7000_4500_ci 324.107
cd_0_0_0_23 nd_1_0_7000_4500_ci 0 6.1708e-12
rdload_0_0_0_24 nd_1_0_9000_4500 0 246.288
rdesr_0_0_0_24 nd_1_0_9000_4500 nd_1_0_9000_4500_ci 246.288
cd_0_0_0_24 nd_1_0_9000_4500_ci 0 8.12058e-12
rdload_0_0_0_25 nd_1_0_1000_5500 0 67.152
rdesr_0_0_0_25 nd_1_0_1000_5500 nd_1_0_1000_5500_ci 67.152
cd_0_0_0_25 nd_1_0_1000_5500_ci 0 2.97832e-11
rdload_0_0_0_26 nd_1_0_3000_5500 0 318.422
rdesr_0_0_0_26 nd_1_0_3000_5500 nd_1_0_3000_5500_ci 318.422
cd_0_0_0_26 nd_1_0_3000_5500_ci 0 6.28097e-12
rdload_0_0_0_27 nd_1_0_5000_5500 0 156.46
rdesr_0_0_0_27 nd_1_0_5000_5500 nd_1_0_5000_5500_ci 156.46
cd_0_0_0_27 nd_1_0_5000_5500_ci 0 1.27828e-11
rdload_0_0_0_28 nd_1_0_7000_5500 0 66.67
rdesr_0_0_0_28 nd_1_0_7000_5500 nd_1_0_7000_5500_ci 66.67
cd_0_0_0_28 nd_1_0_7000_5500_ci 0 2.99985e-11
rdload_0_0_0_29 nd_1_0_9000_5500 0 305.784
rdesr_0_0_0_29 nd_1_0_9000_5500 nd_1_0_9000_5500_ci 305.784
cd_0_0_0_29 nd_1_0_9000_5500_ci 0 6.54056e-12
rdload_0_0_0_30 nd_1_0_1000_6500 0 71.2278
rdesr_0_0_0_30 nd_1_0_1000_6500 nd_1_0_1000_6500_ci 71.2278
cd_0_0_0_30 nd_1_0_1000_6500_ci 0 2.80789e-11
rdload_0_0_0_31 nd_1_0_3000_6500 0 458.472
rdesr_0_0_0_31 nd_1_0_3000_6500 nd_1_0_3000_6500_ci 458.472
cd_0_0_0_31 nd_1_0_3000_6500_ci 0 4.36232e-12
rdload_0_0_0_32 nd_1_0_5000_6500 0 91.386
rdesr_0_0_0_32 nd_1_0_5000_6500 nd_1_0_5000_6500_ci 91.386
cd_0_0_0_32 nd_1_0_5000_6500_ci 0 2.18852e-11
rdload_0_0_0_33 nd_1_0_7000_6500 0 149.445
rdesr_0_0_0_33 nd_1_0_7000_6500 nd_1_0_7000_6500_ci 149.445
cd_0_0_0_33 nd_1_0_7000_6500_ci 0 1.33828e-11
rdload_0_0_0_34 nd_1_0_9000_6500 0 100.54
rdesr_0_0_0_34 nd_1_0_9000_6500 nd_1_0_9000_6500_ci 100.54
cd_0_0_0_34 nd_1_0_9000_6500_ci 0 1.98926e-11
rdload_0_0_0_35 nd_1_0_1000_7500 0 178.823
rdesr_0_0_0_35 nd_1_0_1000_7500 nd_1_0_1000_7500_ci 178.823
cd_0_0_0_35 nd_1_0_1000_7500_ci 0 1.11842e-11
rdload_0_0_0_36 nd_1_0_3000_7500 0 146.746
rdesr_0_0_0_36 nd_1_0_3000_7500 nd_1_0_3000_7500_ci 146.746
cd_0_0_0_36 nd_1_0_3000_7500_ci 0 1.3629e-11
rdload_0_0_0_37 nd_1_0_5000_7500 0 392.601
rdesr_0_0_0_37 nd_1_0_5000_7500 nd_1_0_5000_7500_ci 392.601
cd_0_0_0_37 nd_1_0_5000_7500_ci 0 5.09423e-12
rdload_0_0_0_38 nd_1_0_7000_7500 0 75.1958
rdesr_0_0_0_38 nd_1_0_7000_7500 nd_1_0_7000_7500_ci 75.1958
cd_0_0_0_38 nd_1_0_7000_7500_ci 0 2.65972e-11
rdload_0_0_0_39 nd_1_0_9000_7500 0 681.689
rdesr_0_0_0_39 nd_1_0_9000_7500 nd_1_0_9000_7500_ci 681.689
cd_0_0_0_39 nd_1_0_9000_7500_ci 0 2.93389e-12
rdload_0_0_0_40 nd_1_0_1000_8500 0 383.108
rdesr_0_0_0_40 nd_1_0_1000_8500 nd_1_0_1000_8500_ci 383.108
cd_0_0_0_40 nd_1_0_1000_8500_ci 0 5.22046e-12
rdload_0_0_0_41 nd_1_0_3000_8500 0 169.818
rdesr_0_0_0_41 nd_1_0_3000_8500 nd_1_0_3000_8500_ci 169.818
cd_0_0_0_41 nd_1_0_3000_8500_ci 0 1.17773e-11
rdload_0_0_0_42 nd_1_0_5000_8500 0 597.131
rdesr_0_0_0_42 nd_1_0_5000_8500 nd_1_0_5000_8500_ci 597.131
cd_0_0_0_42 nd_1_0_5000_8500_ci 0 3.34935e-12
rdload_0_0_0_43 nd_1_0_7000_8500 0 203.29
rdesr_0_0_0_43 nd_1_0_7000_8500 nd_1_0_7000_8500_ci 203.29
cd_0_0_0_43 nd_1_0_7000_8500_ci 0 9.83814e-12
rdload_0_0_0_44 nd_1_0_9000_8500 0 73.7549
rdesr_0_0_0_44 nd_1_0_9000_8500 nd_1_0_9000_8500_ci 73.7549
cd_0_0_0_44 nd_1_0_9000_8500_ci 0 2.71168e-11
rdload_0_0_0_45 nd_1_0_1000_9500 0 568.247
rdesr_0_0_0_45 nd_1_0_1000_9500 nd_1_0_1000_9500_ci 568.247
cd_0_0_0_45 nd_1_0_1000_9500_ci 0 3.5196e-12
rdload_0_0_0_46 nd_1_0_3000_9500 0 197.112
rdesr_0_0_0_46 nd_1_0_3000_9500 nd_1_0_3000_9500_ci 197.112
cd_0_0_0_46 nd_1_0_3000_9500_ci 0 1.01465e-11
rdload_0_0_0_47 nd_1_0_5000_9500 0 1221.09
rdesr_0_0_0_47 nd_1_0_5000_9500 nd_1_0_5000_9500_ci 1221.09
cd_0_0_0_47 nd_1_0_5000_9500_ci 0 1.63788e-12
rdload_0_0_0_48 nd_1_0_7000_9500 0 106.212
rdesr_0_0_0_48 nd_1_0_7000_9500 nd_1_0_7000_9500_ci 106.212
cd_0_0_0_48 nd_1_0_7000_9500_ci 0 1.88302e-11
rdload_0_0_0_49 nd_1_0_9000_9500 0 195.582
rdesr_0_0_0_49 nd_1_0_9000_9500 nd_1_0_9000_9500_ci 195.582
cd_0_0_0_49 nd_1_0_9000_9500_ci 0 1.02259e-11

*-- intentional decap
cd_add_cap0 nd_1_0_3000_1500 nd0 'dcap_int_val122'
cd_add_cap1 nd_1_0_7000_1500 nd1 'dcap_int_val123'
cd_add_cap2 nd_1_0_3000_3500 nd2 'dcap_int_val124'
cd_add_cap3 nd_1_0_7000_3500 nd3 'dcap_int_val125'
cd_add_cap4 nd_1_0_3000_5500 nd4 'dcap_int_val126'
cd_add_cap5 nd_1_0_7000_5500 nd5 'dcap_int_val127'
cd_add_cap6 nd_1_0_3000_8500 nd6 'dcap_int_val128'
cd_add_cap7 nd_1_0_7000_8500 nd7 'dcap_int_val129'
rd_add0 nd0 0 'esr1'
rd_add1 nd1 0 'esr2'
rd_add2 nd2 0 'esr3'
rd_add3 nd3 0 'esr4'
rd_add4 nd4 0 'esr5'
rd_add5 nd5 0 'esr6'
rd_add6 nd6 0 'esr7'
rd_add7 nd7 0 'esr8'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_2500  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_4500  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_6500  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_1000_8500  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1500  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_3500  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_5500  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_3000_7500  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_2500  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_4500  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_6500  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_5000_8500  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1500  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_3500  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_5500  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_7000_7500  0.001

.ends chiplet1
